US08431695B2
Step 2: Preparation of tert-butyl 4-[4-(4-amino-5-bromopyrrolo[2,1-f][1,2,4]triazin-7-yl) phenyl]piperazine-1-carboxylate
To a cooled (−20° C.) solution of tert-butyl 4-[4-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)phenyl]piperazine-1-carboxylate (1.20 g, 3.04 mmol) in tetrahydrofuran (15 mL) was added 1,3-dibromo-5,5-dimethylhydantoin (435 mg, 1.21 mmol) in four portions over 15 min. The mixture stirred at −20° C. for 3 h. Saturated, aqueous Na2SO3 (20 mL) was added and the mixture was allowed to warm to rt. The mixture was extracted with ethyl acetate (2×25 mL). The combined organic layers were dried (Na2SO4) and concentrated. The crude material was purified by ISCO® chromatography using a gradient of 25 to 75% ethyl acetate in hexanes. 1H-NMR indicated the presence of residual hydantoin side product, thus the material was partitioned between ethyl acetate (50 mL) and 5% aqueous K2CO3 (50 mL). The layers were separated and the organic layer was further washed with 5% aqueous K2CO3 (2×25 mL). The combined aqueous layer was extracted with ethyl acetate (2×25 mL) and the combined organic layers were washed with brine, dried (Na2SO4) and concentrated to afford 340 mg (23%) of the desired product as a white solid. 1H NMR (300 MHz, DMSO-d6) δ 7.91-7.83 (m, 3 H), 7.09 (s, 1 H), 7.00 (d, 2 H), 3.50-3.42 (m, 4 H), 3.20-3.14 (m, 4 H), 1.42 (s, 9 H); ES-MS m/z 473.0 [M+H]+, HPLC RT (min) 3.25.

reactant | tert-butyl 4-[4-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)phenyl]piperazine-1-carboxylate | 3.04 mmol, 1.20 g | NC1=NC=NN2C1=CC=C2C2=CC=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C | C21H26N6O2
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 1.21 mmol, 435 mg | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
reactant | Na2SO3 | 20 mL | [O-]S(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-[4-(4-amino-5-bromopyrrolo[2,1-f][1,2,4]triazin-7-yl) phenyl]piperazine-1-carboxylate | 340 mg, 23% | NC1=NC=NN2C1=C(C=C2C2=CC=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C)Br | C21H25BrN6O2
